US09163011B2
b) 5-Difluoromethyl-3-nitro-pyridine-2-carboxylic acid
In a mixture of 5 ml DCM and 2.5 ml TFA was dissolved 345 mg (1.26 mmol) 5-difluoromethyl-3-nitro-pyridine-2-carboxylic acid tert-butyl ester and the reaction mixture was stirred for 4 h. Toluene was added and the solvents were evaporated to provide the title compound as colorless solid.

reactant | 5-difluoromethyl-3-nitro-pyridine-2-carboxylic acid tert-butyl ester | 1.26 mmol, 345 mg | C(C)(C)(C)OC(=O)C1=NC=C(C=C1[N+](=O)[O-])C(F)F | C11H12F2N2O4
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Difluoromethyl-3-nitro-pyridine-2-carboxylic acid | FC(C=1C=C(C(=NC1)C(=O)O)[N+](=O)[O-])F | C7H4F2N2O4
